US04634777
Preparation of 4,4'-dinitro-2,2'-[(1,3-dioxo-1,3-propanediyl)diimino]bisbenzoic acid (Compound 06) (Process d)
4-Nitroanthranilic acid (5.0 g, 26.6 mmol) was dissolved in dry dioxane (130 ml). To this solution, a solution of malonyl dichloride (1.45 g) in dry dioxane (5 ml) was added dropwise at room temperature. After stirring the mixture overnight, the precipitated crystals were collected by filtration, and washed with water and ether to give a pale yellow crystals of the title compound (2.58 g, 9.8%). m.p., 269°-270.5° C.

reactant | 4-Nitroanthranilic acid | 26.6 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)N | C7H6N2O4
reactant | malonyl dichloride | 1.45 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | dioxane | 130 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4,4'-dinitro-2,2'-[(1,3-dioxo-1,3-propanediyl)diimino]bisbenzoic acid | 2.58 g, 9.8% | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)NC(CC(=O)NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-])=O | C17H12N4O10
